US08372874B2
Step 2: Synthesis of N-(3-{2-[Acetyl-(4-methoxy-benzyl)-amino]-1,1-dimethyl-ethyl}-isoxazol-5-yl)-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide
To a solution of N-{3-[2-(4-methoxy-benzylamino)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide (143 mg, 0.29 mmol) in THF (1.5 mL) are added pyridine (0.035 mL, 0.44 mmol) and acetyl chloride (0.031 mL, 0.44 mmol). The reaction mixture is stirred at room temperature for 3.5 h. After this time, more pyridine (0.018 mL, 0.22 mmol) and acetyl chloride (0.016 mL, 0.22 mmol) are added to the reaction mixture and the stirring is continued for 1 h. After this time, the reaction mixture is quenched with saturated aqueous NaHCO3 solution and extracted with ethyl acetate twice. The organic extracts are combined and washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by flash chromatography on silica gel using methanol/DCM provides the title compound. Yield: 75%; LC-MS retention time: 1.62 mins. ESI+ion mode. Zorbax SB-C18 column (3.5 μm, 4.6×30 mm). Gradient: 5% B to 80% B (0 min to 1.7 mins), 80% B to 95% B (1.7 mins to 2 mins), 95% B to 95% B (2 mins to 2.1 mins). Flow rate: 2.5 mL/min. A=(Water+0.1% Formic Acid), B=(Acetonitrile+0.1% Formic Acid). Diode Array Detector; m/z 536 [M+H].

reactant | N-{3-[2-(4-methoxy-benzylamino)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | 0.29 mmol, 143 mg | COC1=CC=C(CNCC(C)(C)C2=NOC(=C2)NC(C(C)(S(=O)(=O)C2CCOCC2)C)=O)C=C1 | C24H35N3O6S
reactant | pyridine | 0.44 mmol, 0.035 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.44 mmol, 0.031 mL | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 0.22 mmol, 0.018 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.22 mmol, 0.016 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-(3-{2-[Acetyl-(4-methoxy-benzyl)-amino]-1,1-dimethyl-ethyl}-isoxazol-5-yl)-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | Yield: 75% | C(C)(=O)N(CC(C)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O)CC1=CC=C(C=C1)OC | C26H37N3O7S
